US07427390B2
340 mg (0.82 mmol) of N-(2-diethylamino-ethyl)-4-(2-benzyloxy-acetylamino)-2-methoxy-benzamide is mixed in 40 ml of methanol with 200 mg of palladium on carbon (10%), and it is hydrogenated for 1.5 hours at normal pressure and at room temperature. After the catalyst is drawn off on diatomaceous earth, the filtrate is concentrated by evaporation, and the residue is chromatographed on 10 g of Isolute NH2 (50 μm) with a gradient from methylene chloride. The correspondingly combined fractions are concentrated by evaporation and again on 20 g of Isolute NH2 (50 μm) with a gradient from cyclohexane to cyclohexane:methylene chloride=50:50, and 60 mg (22.6% of theory) of N-(2-diethylamino-ethyl)-4-(2-hydroxy-acetylamino)-2-methoxy-benzamide is obtained as an oil.

reactant | N-(2-diethylamino-ethyl)-4-(2-benzyloxy-acetylamino)-2-methoxy-benzamide | 0.82 mmol, 340 mg | C(C)N(CCNC(C1=C(C=C(C=C1)NC(COCC1=CC=CC=C1)=O)OC)=O)CC | C23H31N3O4
solvent | methanol | 40 ml | CO | CH4O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | N-(2-diethylamino-ethyl)-4-(2-hydroxy-acetylamino)-2-methoxy-benzamide | 60 mg, 22.6% | C(C)N(CCNC(C1=C(C=C(C=C1)NC(CO)=O)OC)=O)CC | C16H25N3O4
